US08232312B2
3-nitro-9H-carbazole
2.2 g 9-(2-phenylsulphonyl-ethyl)-3-nitro-9H-carbazole are dissolved in 40 ml of tetrahydrofuran, combined with 700 mg potassium-tert.-butoxide and stirred for 2 hours at ambient temperature. A further 100 mg potassium-tert.-butoxide are added and the mixture is stirred for 4 hours at ambient temperature. Then another 100 mg potassium-tert.-butoxide are added. The mixture is heated for 2 hours to 50° C., divided between ethyl acetate and 1 N hydrochloric acid, the organic phase is washed with saturated sodium chloride solution and dried with magnesium sulphate. After elimination of the solvents in vacuo the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 90:10 to 80:20).

reactant | 9-(2-phenylsulphonyl-ethyl)-3-nitro-9H-carbazole | 2.2 g | C1(=CC=CC=C1)S(=O)(=O)CCN1C2=CC=CC=C2C=2C=C(C=CC12)[N+](=O)[O-] | C20H16N2O4S
reactant | potassium tert.-butoxide | 700 mg | [K].CC(C)([O-])C
reactant | potassium tert.-butoxide | 100 mg | [K].CC(C)([O-])C
reactant | potassium tert.-butoxide | 100 mg | [K].CC(C)([O-])C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-nitro-9H-carbazole | [N+](=O)([O-])C=1C=CC=2NC3=CC=CC=C3C2C1 | C12H8N2O2
